US07119122B2
2-Chloro-6-ethylnicotinonitrile (0.27 g, 1.6 mmol), 3-hydroxy-2-methoxybenzaldehyde (0.25 g, 1.6 mmol) and potassium fluoride (0.29 g, 4.9 mmol) were heated with stirring in dry DMF (4 mL) at 120° C. for 6 h, then at 80° C. for 16 h. The reaction mixture was cooled, poured into 1N sodium hydroxide solution and extracted with ethyl acetate. The ethyl acetate layer was separated, washed with 1N sodium hydroxide solution (3×), water (4×); brine (1×), and dried over MgSO4. After filtration, the solvent was removed in vacuo to yield 6-ethyl-2-(3-formyl-2-methoxy-phenoxy)-nicotinonitrile (0.28 g, 61%) as a yellow oil.

reactant | 2-Chloro-6-ethylnicotinonitrile | 1.6 mmol, 0.27 g | ClC1=C(C#N)C=CC(=N1)CC | C8H7ClN2
reactant | 3-hydroxy-2-methoxybenzaldehyde | 1.6 mmol, 0.25 g | OC=1C(=C(C=O)C=CC1)OC | C8H8O3
reactant | potassium fluoride | 4.9 mmol, 0.29 g | [F-].[K+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 6-ethyl-2-(3-formyl-2-methoxy-phenoxy)-nicotinonitrile | 0.28 g, 61% | C(C)C1=NC(=C(C#N)C=C1)OC1=C(C(=CC=C1)C=O)OC | C16H14N2O3
